US06133260
A solution of 156 g of methyl 3-cyano-2,4,5-trifluoro-benzoate in 960 ml of glacial acetic acid, 140 ml of water and 69 ml of concentrated sulphuric acid is heated to reflux for 8 hours. The acetic acid is then largely removed by distillation in vacuo and the residue is treated with water. The precipitated solid is filtered off with suction, washed with water and dried. 118.6 g of 3-cyano-2,4,5-trifluoro-benzoic acid are obtained as a white solid of melting point 187-190° C.

reactant | methyl 3-cyano-2,4,5-trifluoro-benzoate | 156 g | C(#N)C=1C(=C(C(=O)OC)C=C(C1F)F)F | C9H4F3NO2
solvent | acetic acid | 960 ml | C(C)(=O)O | C2H4O2
solvent | water | 140 ml | O | H2O
solvent | sulphuric acid | 69 ml | S(O)(O)(=O)=O | H2O4S
product | 3-cyano-2,4,5-trifluoro-benzoic acid | 118.6 g | C(#N)C=1C(=C(C(=O)O)C=C(C1F)F)F | C8H2F3NO2
